US05011947
Ethyl 3,3-bis(4-fluorophenyl)-2-methylpropenoate
A solution of ethyl 3,3-bis(4-fluorophenyl)-3-hydroxy-2-methylpropionate (0.5 g, 1.6 mmol) and p-toluenesulfonic acid (0.18 g) in toluene was heated at reflux for 2.5 hours. The solution was cooled and washed with saturated sodium bicarbonate solution and water. The organic layer was dried with magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica eluting with 0.5% ethyl acetate in hexane to give 0.2 g of the product as a clear oil which was crystallized from petroleum ether to give 0.15 g of the title compound; m.p. =75°-76° C.

reactant | ethyl 3,3-bis(4-fluorophenyl)-3-hydroxy-2-methylpropionate | 1.6 mmol, 0.5 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)C)(O)C1=CC=C(C=C1)F | C18H18F2O3
reactant | p-toluenesulfonic acid | 0.18 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3,3-bis(4-fluorophenyl)-2-methylpropenoate | 0.2 g | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C)C1=CC=C(C=C1)F | C18H16F2O2
